US07091214B2
8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and pyridine-3-boronic acid were coupled according to the general procedure described in Part J of Example 1. Purification by chromatography on silica gel (7%–10% methanol in CH2Cl2 gradient) afforded 1-isobutyl-8-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 244–246° C.

reactant | 8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C14H15BrN4
reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 1-isobutyl-8-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | C(C(C)C)N1C=NC=2C(=NC=3C=CC(=CC3C21)C=2C=NC=CC2)N | C19H19N5
